* LM107
* Linear Technology LM107 op amp model  
* Written: 08-23-1989 15:53:34 Type: Bipolar npn input, internal comp.
* Typical specs: 
* Vos=7.0E-04, Ib=3.0E-08, Ios=1.5E-09, GBP=9.0E+05Hz, Phase mar.= 70 deg, 
* SR(+)=5.0E-01V/us, SR(-)=4.8E-01V/us, Av= 104 dB, CMMR= 96 dB, 
* Vsat(+)=1.00V, Vsat(-)=1.00V, Isc=+/-30.0mA, Iq= 1800uA
* 
* Connections: 
*              Non-Inverting Input
*              |   Inverting Input
*              |   |   Positive Power Supply
*              |   |   |   Negative Power Supply
*              |   |   |   |   Output
*              |   |   |   |   |
.SUBCKT LM107  3   2   7   4   6 
* INPUT
RC1 7 80 5.895E+03
RC2 7 90 5.895E+03
Q1 80 2 10 QM1 
Q2 90 3 11 QM2 
C1 80 90 5.460E-12
RE1 10 12 2.438E+03
RE2 11 12 2.438E+03
IEE 12 4 1.506E-05
RE 12 0 1.328E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 2.689E-09
GA 8 0 80 90 1.696E-04
R2 8 0 1.000E+05
C2 1 8 3.000E-11
GB 1 0 8 0 1.401E+02
* OUTPUT 
RO1 1 6 3.333E+01
RO2 1 0 6.667E+01
RC 17 0 4.758E-05
GC 0 17 6 0 2.102E+04
D1 1 17 DM1 
D2 17 1 DM1 
D3 6 13 DM2 
D4 14 6 DM2 
VC 7 13 1.808E+00
VE 14 4 1.808E+00
IP 7 4 1.785E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.000E-16 BF=2.439E+02)
.MODEL QM2 NPN (IS=8.220E-16 BF=2.564E+02)
.MODEL DM1 D (IS=3.337E-15)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LM107